US07378546B2
To a mixture of 5.00 g (36.4 mmole) of 2-aminobenzoic acid, 100 ml of acetic acid and 3.56 g (14.0 mmole) of molecular iodine, 2.12 g (8.4 mmole) of a 70% by weight aqueous solution of iodic acid was added dropwise. After the reaction mixture was stirred at the room temperature for 3 hour, the reaction mixture was analyzed in accordance with the high performance liquid chromatography. The results of the reaction are shown in Table 1. It was shown by the values obtained by the analysis of the reaction mixture that the yield of 2-amino-5-iodobenzoic acid was 60% as calculated based on the amount of iodine atom (this result is shown in the parenthesis since this result is different from the yield of the isolated product). A relatively great conversion was obtained when iodic acid of the oxidizing agent was used as the iodinating agent. However, it was difficult that the selectivity of the object product as great as that obtained by using hydrogen peroxide was obtained.

reactant | 2-aminobenzoic acid | 36.4 mmole, 5.00 g | NC1=C(C(=O)O)C=CC=C1 | C7H7NO2
reactant | iodic acid | I(=O)(=O)O | HIO3
solvent | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
product | 2-amino-5-iodobenzoic acid | NC1=C(C(=O)O)C=C(C=C1)I | C7H6INO2
